US05250548
Ethyl 2-chloropyridine-3-carboxylate
2-Chloropyridine-3-carboxylic acid (25 g) was refluxed 3 hours in 200 mL of benzene containing 150 mL of thionyl chloride. The reaction mixture was concentrated in vacuo and chased with toluene. The residue obtained was treated with 100 mL of ethanol and refluxed an additional 20 minutes. The ethanol was removed under reduced pressure and the product was dissolved in toluene. The toluene solution was dried over magnesium sulfate and concentrated in vacuo to give the product as a colorless oil which was used without further purification in the next step.

reactant | 2-Chloropyridine-3-carboxylic acid | 25 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 2-chloropyridine-3-carboxylate | ClC1=NC=CC=C1C(=O)OCC | C8H8ClNO2
